US07427635B2
2-((2S,3S)-2-tert-butoxycarbonylamino-3-phenyl-butyrylamino)-thiazole-4-carboxylic acid methyl ester (0.65 g, 1.54 mmol) was mixed in dichloromethane (5 mL) in an ice-bath. Trifluoroacetic acid (5 mL) was added and the solution was stirred for 2 hours. The reaction mixture was evaporated and the residue was precipitated with ether. The mixture was stirred vigorously for 10 minutes and then filtered. The solid was partitioned between aqueous sodium bicarbonate and dichloromethane. The organic layer was separated and the aqueous layer was extracted with dichloromethane. The combined organic extracts were washed with brine and dried (sodium sulfate). Evaporation of the solvents gave 2-((2S,3S)-2-amino-3-phenyl-butyrylamino)-thiazole-4-carboxylic acid methyl ester (0.35 g, 71%).

reactant | 2-((2S,3S)-2-tert-butoxycarbonylamino-3-phenyl-butyrylamino)-thiazole-4-carboxylic acid methyl ester | 1.54 mmol, 0.65 g | COC(=O)C=1N=C(SC1)NC([C@H]([C@@H](C)C1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C20H25N3O5S
reactant | Trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-((2S,3S)-2-amino-3-phenyl-butyrylamino)-thiazole-4-carboxylic acid methyl ester | 0.35 g, 71% | COC(=O)C=1N=C(SC1)NC([C@H]([C@@H](C)C1=CC=CC=C1)N)=O | C15H17N3O3S
